US04888332
Preparation of 6-ethoxycarbonyl-7-hydroxy-2-mercapto-s-triazolo[1,5-a]pyrimidine
A mixture of 15 g 3-amino-5-mercapto-s-triazole, 28 g diethyl ethoxymethylenemalonate and 70 ml acetic acid was refluxed for 18 hours. After removing the solvent by distillation, the remaining brown oil was allowed to cool to room temperature, and the pH was adjusted to 10 with sodium hydroxide solution. After washing with 100 ml ethyl acetate, the brown aqueous solution was neutralized to pH 7.5 with 6N hydrochloric acid, and again washed with 100 ml ethyl acetate. The pH of the aqueous layer was lowered to 3.0 with 6N hydrochloric acid, and the separated crude product (12 g) was collected by filtration and recrystallized from 30 ml methanol, giving 9 g of the objective compound as colorless crystals.

reactant | 3-amino-5-mercapto-s-triazole | 15 g | NC1=NNC(=N1)S | C2H4N4S
reactant | diethyl ethoxymethylenemalonate | 28 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 6-ethoxycarbonyl-7-hydroxy-2-mercapto-s-triazolo[1,5-a]pyrimidine | 9 g | C(C)OC(=O)C=1C=NC=2N(C1O)N=C(N2)S | C8H8N4O3S
